US05487845
25 ml of butyllithium (15% in hexane) are added dropwise at -70° C. to a solution of 15 g of 4-(trans-4-n-propylcyclohexyl)-2-fluoro-4'-bromobiphenyl in 50 ml of THF and a cooled solution of 4.5 g of ZnBr2 in 25 ml of THF is added after 30 min. After addition of 8.5 g of 1-bromo-3,4,5-trifluorobenzene in 75 ml of THF and 0.6 g of PdCl2 -dppf, the mixture is allowed to come to room temperature. After stirring for 24 h, the mixture is poured into 100 ml of saturated NH4Cl solution and worked up as usual. 4"-(trans-4-n-Propylcyclohexyl)-2",3,4,5-tetrafluoroterphenyl is obtained, C 148 N 233 I.

reactant | butyllithium | 25 ml | C(CCC)[Li]
reactant | 4-(trans-4-n-propylcyclohexyl)-2-fluoro-4'-bromobiphenyl | 15 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C1=CC=C(C=C1)Br)F | C21H24BrF
reactant | 1-bromo-3,4,5-trifluorobenzene | 8.5 g | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | PdCl2 dppf | 0.6 g | Cl[Pd]Cl.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | ZnBr2 | 4.5 g | [Zn+2].[Br-].[Br-]
product | 4"-(trans-4-n-Propylcyclohexyl)-2",3,4,5-tetrafluoroterphenyl | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C=1C(=CC=CC1)C1=CC(=C(C(=C1)F)F)F)F | C27H26F4
